US08258160B2
Synthesis of 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide
To a stirred mixture of 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylic acid (0.13 g, 0.43 mmol), 1-hydroxybenzotriazole (0.088 g, 0.65 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.13 g, 0.65 mmol) in anhydrous N,N-dimethylformamide (2 mL) was added N,N-diisopropylethylamine (0.23 mL, 1.30 mmol), followed by the addition of 3-(aminomethyl)pyridine (0.044 mL, 0.44 mmol). The resulting reaction mixture was stirred at ambient temperature for 18 h, and diluted with ethyl acetate (75 mL). The organic layer was washed with saturated aqueous sodium bicarbonate (3×35 mL) and water (35 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with 10% methanol in dichloromethane to afford the title compound as a colorless foam (0.11 g, 67%): mp 82° C. (dec.); 1H NMR (300 MHz, DMSO-d6) δ 8.66 (t, J=5.6 Hz, 1H), 8.55 (s, 1H), 8.46 (s, 1H), 7.73 (d, J=7.9 Hz, 1H), 7.42-7.20 (m, 8H), 4.44 (d, J=5.6 Hz, 2H), 4.10 (s, 2H), 2.43 (s, 3H); MS (ES+) m/z 390.3 (M+1).

reactant | 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylic acid | 0.43 mmol, 0.13 g | C(C1=CC=CC=C1)C1=NC(=NN1)C1=CC(=C(S1)C(=O)O)C | C15H13N3O2S
reactant | 1-hydroxybenzotriazole | 0.65 mmol, 0.088 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.65 mmol, 0.13 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 1.30 mmol, 0.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(aminomethyl)pyridine | 0.44 mmol, 0.044 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 0.11 g, 67% | C(C1=CC=CC=C1)C1=NC(=NN1)C1=CC(=C(S1)C(=O)NCC=1C=NC=CC1)C | C21H19N5OS
